US07683185B2
3-(4-Nitro-phenylsulfanyl)-benzoic acid methyl ester (47a).
To a solution of 3-mercaptobenzoic acid methyl ester (504 mg, 3 mmol) and 1-chloro-4-nitrobenzene (473 mg, 3 mmol) in tetrahydrofuran (4 mL) was added at 0° C., in a dropwise manner, a solution of sodium methoxide in methanol (3.3 mL, 1M). The mixture was heated at reflux for 2 hours with stirring, then cooled to room temperature. Ethyl acetate (25 mL) was added and the mixture was washed consecutively with saturated aqueous sodium hydrogen carbonate (10 mL), distilled water (2×10 mL), and brine (10 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a solid that was recrystallised from ethanol to give the title compound (518 mg, 60%) as a solid, mp 98-100° C.

reactant | 3-mercaptobenzoic acid methyl ester | 3 mmol, 504 mg | COC(C1=CC(=CC=C1)S)=O | C8H8O2S
reactant | 1-chloro-4-nitrobenzene | 3 mmol, 473 mg | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | Ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | methanol | 1M, 3.3 mL | CO | CH4O
product | 3-(4-Nitro-phenylsulfanyl)-benzoic acid methyl ester | 518 mg, 60% | COC(C1=CC(=CC=C1)SC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H11NO4S
